US07612075B2
D. 4-Chloro-7-methylcinnoline.
7-Methyl-1-H-cinnolin-4-one (1.3 g, 8.1 mmol) is treated with about 80 mL of chlorobenzene and heated until the solid dissolves. The resulting solution is cooled and treated with pyridine (0.16 mL, 2 mmol) and POCl3 (1.13 mL, 12.2 mmol). The solution is heated to reflux for 1 h then concentrated to dryness. The residue is chromatographed (20% ethyl acetate/hexane) to yield the title compound as a tan solid (˜1 g, 5.6 mmol). MS m/z (M+=178); 1H NMR (CDCl3, 300 MHz) δ9.3 (s, 1H), 8.35 (s, 1H), 8.1 (d, 1H), 7.7 (d, 1H), 2.68 (s, 3H).

reactant | 7-Methyl-1-H-cinnolin-4-one | 8.1 mmol, 1.3 g | CC1=CC=C2C(C=NNC2=C1)=O | C9H8N2O
reactant | pyridine | 2 mmol, 0.16 mL | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 12.2 mmol, 1.13 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | chlorobenzene | about 80 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4-Chloro-7-methylcinnoline | 5.6 mmol, ˜1 g | ClC1=CN=NC2=CC(=CC=C12)C | C9H7ClN2
